US08802697B2
Synthesis of 4-(2-((2-acrylamidophenyl)amino)-5-chloropyrimidin-4-yl)-N-(3-(trifluoromethyl)phenyl)piperazine-1-carboxamide
To a solution of tert-butyl(2-((5-chloro-4-(4-((3-(trifluoromethyl)phenyl)carbamoyl)piperazin-1-yl)pyrimidin-2-yl)amino)phenyl)carbamate (0.025 g, 0.043 mmol) in DCM (1.0 mL) was added TFA (1.0 mL) and the mixture was stirred for 1 h. An aliquot of the reaction mixture was analyzed by LCMS, which indicated that the reaction had proceeded to completion. The solvents were removed and the residue was dried on high vacuum. The crude product was used for the next step without further purification. To a solution of 4-(2-((2-aminophenyl)amino)-5-chloropyrimidin-4-yl)-N-(3-(trifluoromethyl)phenyl)piperazine-1-carboxamide (0.043 mmol) in DCM (0.5 mL) was added acryloyl chloride (0.004 mL, 0.052 mmol) and DIEA (0.018 mL, 0.11 mmol) and the mixture was stirred at 0° C. for 1 h. The crude reaction mixture was loaded onto silica gel and purified using 0-7% MeOH/DCM gradient to give the title compound (10 mg, 43%). MS (ES+) C25H23ClF3N7O2 requires: 545. found: 546 [M+H]+

reactant | tert-butyl(2-((5-chloro-4-(4-((3-(trifluoromethyl)phenyl)carbamoyl)piperazin-1-yl)pyrimidin-2-yl)amino)phenyl)carbamate | 0.043 mmol, 0.025 g | C(C)(C)(C)OC(NC1=C(C=CC=C1)NC1=NC=C(C(=N1)N1CCN(CC1)C(NC1=CC(=CC=C1)C(F)(F)F)=O)Cl)=O | C27H29ClF3N7O3
reactant | TFA | 1.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 4-(2-((2-aminophenyl)amino)-5-chloropyrimidin-4-yl)-N-(3-(trifluoromethyl)phenyl)piperazine-1-carboxamide | 0.043 mmol | NC1=C(C=CC=C1)NC1=NC=C(C(=N1)N1CCN(CC1)C(=O)NC1=CC(=CC=C1)C(F)(F)F)Cl | C22H21ClF3N7O
reactant | acryloyl chloride | 0.052 mmol, 0.004 mL | C(C=C)(=O)Cl | C3H3ClO
reactant | DIEA | 0.11 mmol, 0.018 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 1.0 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-((2-acrylamidophenyl)amino)-5-chloropyrimidin-4-yl)-N-(3-(trifluoromethyl)phenyl)piperazine-1-carboxamide | 10 mg, 43% | C(C=C)(=O)NC1=C(C=CC=C1)NC1=NC=C(C(=N1)N1CCN(CC1)C(=O)NC1=CC(=CC=C1)C(F)(F)F)Cl | C25H23ClF3N7O2
